US07335660B2
a) 3-Bromo-1-benzothiophene-6-carbonitrile
To a solution of 1-benzothiophene-6-carbonitrile (2.13 g, 13.4 mmol) in dry DMF (20 mL) at −10° C. was added freshly recrystallised N-bromosuccinimide (2.38 g, 13.4 mmol). The solution was allowed to warm to room temperature and stirred over the weekend. The mixture was diluted with water and extracted into diethyl ether, and the organic extract washed with water, then brine. The extracts were dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica, eluting with ethyl acetate/hexane (1:9), to yield the title compound as a white solid.

reactant | 1-benzothiophene-6-carbonitrile | 13.4 mmol, 2.13 g | S1C=CC2=C1C=C(C=C2)C#N | C9H5NS
reactant | N-bromosuccinimide | 13.4 mmol, 2.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-1-benzothiophene-6-carbonitrile | BrC1=CSC2=C1C=CC(=C2)C#N | C9H4BrNS
